US05883125
To a 250 ml round bottom flask equipped with a magnetic stirrer and reflux condensor, was charged 2.7 g (0.02 moles) of 3'-hydroxyacetophenone, 2.1 g (0.02 moles) of benzaldehyde, 2.0 g (0.011 moles) of barium hydroxide, monohydrate, and 20 ml of absolute ethanol. The reaction was refluxed for a total of 2.5 hours, after which it became thick and difficult to stir. Upon cooling, the resulting solid was dissolved in 100 mls of 1N aqueous hydrochloric acid, and another solid was observed to precipitate from solution. The solid was collected by vacuum filtration, and washed with 100 mls of water, then 100 mls of hexane and dried in vacuo at 40° C. for 24 hours. 4.2 g (93% yield) of 3'-hydroxychalcone was isolated as a tan solid. MP=143°-147° C.

reactant | 3'-hydroxyacetophenone | 0.02 moles, 2.7 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | benzaldehyde | 0.02 moles, 2.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | barium hydroxide, monohydrate | 0.011 moles, 2.0 g | O.[OH-].[Ba+2].[OH-]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1N, 100 mls | Cl | ClH
product | 3'-hydroxychalcone | 4.2 g, 93% yield | OC=1C=C(C(C=CC2=CC=CC=C2)=O)C=CC1 | C15H12O2
